US08222248B2
A mixture of 2-(4-Cyano-2,6-dimethyl-phenyl)-3H-benzoimidazole-5-carboxylic acid (3,4-dimethyl-phenyl)-amide (40 mg), NaN3 (65 mg) and NH4Cl (54 mg) in DMF (1 mL) was heated at 120° C. under microwave radiation for 60 min. The mixture was concentrated under reduced pressure. The crude product was purified by reverse phase column chromatography (C18, H2O:CH3CN=100:0 to 70:30) to give 2-[2,6-dimethyl-4-(2H-tetrazol-5-yl)-phenyl]-3H-benzoimidazole-5-carboxylic acid (3,4-dimethyl-phenyl)-amide as a white solid: MS (m/z) 438 (M+1).

reactant | 2-(4-Cyano-2,6-dimethyl-phenyl)-3H-benzoimidazole-5-carboxylic acid (3,4-dimethyl-phenyl)-amide | 40 mg | CC=1C=C(C=CC1C)NC(=O)C1=CC2=C(N=C(N2)C2=C(C=C(C=C2C)C#N)C)C=C1 | C25H22N4O
reactant | NaN3 | 65 mg | [N-]=[N+]=[N-].[Na+]
reactant | NH4Cl | 54 mg | [NH4+].[Cl-]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-[2,6-dimethyl-4-(2H-tetrazol-5-yl)-phenyl]-3H-benzoimidazole-5-carboxylic acid (3,4-dimethyl-phenyl)-amide | CC=1C=C(C=CC1C)NC(=O)C1=CC2=C(N=C(N2)C2=C(C=C(C=C2C)C=2N=NNN2)C)C=C1 | C25H23N7O
